US06586475B1
N-[3-[4-(2-Naphthylmethoxy)phenyl]propyl]-N,N-dipropylamine Hydrochloride
To a mixture of 4-[3-(N,N-dipropylamino)propyl]phenol hydrochloride (0.152 g), 2-bromomethylnaphthalene (0.165 g), and DMF (10 ml) was added potassium carbonate (0.131 g). Sodium hydride (60% oil dispersion: 0.044 g) was added to the reaction mixture under ice cooling and the reaction mixture was stirred at room temperature for one hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride sequentially, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: hexane/ethyl acetate=4/1) and converted into its hydrochloride by 4 N hydrochloric acid/ethyl acetate solution followed by recrystallization from methanol/diisopropylether to obtain the titled compound (0.169 g).

reactant | 4-[3-(N,N-dipropylamino)propyl]phenol hydrochloride | 0.152 g | Cl.C(CC)N(CCC)CCCC1=CC=C(C=C1)O
reactant | 2-bromomethylnaphthalene | 0.165 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 0.131 g | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium hydride | 0.044 g | [H-].[Na+]
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[3-[4-(2-Naphthylmethoxy)phenyl]propyl]-N,N-dipropylamine Hydrochloride | 0.169 g | Cl.C1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CCCN(CCC)CCC | InChI=1S/C26H33NO.ClH/c1-3-17-27(18-4-2)19-7-8-22-12-15-26(16-13-22)28-21-23-11-14-24-9-5-6-10-25(24)20-23;/h5-6,9-16,20H,3-4,7-8,17-19,21H2,1-2H3;1H
